data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]1(CCC2(C(CCC2=C[C:22]1=[O:23])C(C)C)C)C[N+](C)(C)C.C1CCC2=[N:10]CCCN2CC1.[I-]>>[H:20][N+:10]1=C2CCCCCN2CCC1.CC(C)C1CCC2=C[C:22](=[C:21](CCC12C)C[N+](C)(C)C)[O-:23].[I-] 10=20;20,21=21,22;22,23=23
[H:20][O:21]C(=O)C(F)(F)F.CC1CC(=[N:10]C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C)OC(=O)C(F)(F)F>>[H:20][N+:10]1=C(CC(C2(C1(C3=CCC4CC(CCC4(C3CC2)C)O)C)C)C)OC(=O)C(F)(F)F.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[H:20][C:21]1(CCCC[C+:22]1C)C.OP(=O)(O)[O-:10]>>C[C:21]1=[C:22](CCCC1)C.[H:20][O:10]P(=O)(O)O 10=20;20,21=21,22
[H:20][O:21]C(CCCOCC1=CC=CC=C1)(C2=[N+](C(=C(S2)CCO)C)CCC3=CC=C(C=C3)C[N+]4=CSC(=C4C)CCO)C([CH:10]=[C:11](C5=NC=CC=C5)[O-:12])C6=CC=CO6.CC[NH+](CC)CC.CCO.[Br-]>>[H:20][CH:10](C(C1=CC=CO1)C(CCCOCC2=CC=CC=C2)(C3=[N+](C(=C(S3)CCO)C)CCC4=CC=C(C=C4)C[N+]5=CSC(=C5C)CCO)[O-:21])[C:11](=[O:12])C6=NC=CC=C6.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;20,21=21;12=11
[H:10][C:11]1(CCC(CC1CC)CC(C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC)CC(C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC)C(CC)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(OC)[O:21]CC 10=20;20,21=21
CN[CH:20]([N:10](C)C)[OH+:21]C.[Cl-]>>CN[CH:20]=[N+:10](C)C.C[OH:21].[Cl-] 10=20;20,21=21
[H:20][CH:21]1CCCCCC[C:22]1=[NH+:23]CC2=CC=CC=C2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C1CCC[C:22](=[CH:21]CC1)[NH:23]CC2=CC=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C[N+:11](=[S:10](C)[O-])C>>C[N:11](C)[S+:10](C)[O-] 10,11=11
[Li-:10]([NH+](C(C)C)C(C)C)[O+:11](C1=CCCC1C(C)CCCO[Si](C)(C)C(C)(C)C)[Si](C)(C)C.[Cl-]>>[Li:10][NH+](C(C)C)C(C)C.CC(CCCO[Si](C)(C)C(C)(C)C)C1CCC=C1[O:11][Si](C)(C)C.[Cl-] 10,11=11
[B:20](Cl)(Cl)Cl.CC(C)(C)C12CCCC(=[O:10])C1C(=C)C2>>[B-:20]([O+:10]=C1CCCC2(C1C(=C)C2)C(C)(C)C)(Cl)(Cl)Cl 10=20,
C1=CC2=C(C=C1)[NH:12][C:11](=[C:10]([C:20]2([O:21]P(=O)(Cl)Cl)Cl)[N+](=O)[O-])Cl.CCN(CC)CC>>C1=CC2=C(C=C1)[NH+:12]=[C:11]([C:10](=[C:20]2Cl)[N+](=O)[O-])Cl.[O-:21]P(=O)(Cl)Cl.CCN(CC)CC 10,11=10,20;20,21=21;12=11
CCO[Si:20](C)(C)C.[F-:10]>>CCO[Si-:20](C)(C)(C)[F:10] 10=20,
[H:10][C:11](=O)[O-:12].C[N+:21](=[CH2:20])C>>[C:11](=O)=[O:12].[H:10][CH2:20][N:21](C)C 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC1=CC=CC=C1)C(CCCCCCCC=CCCCCCCCC)(O)O.C1=CC=C(C=C1)C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][OH+:10]CC1=CC=CC=C1.CCCCCCCCC=CCCCCCCCC(O)(O)[O:21]CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
CO[C:20]([O-:10])(OC)[O:21]C>>C[O-:21].CO[C:20](=[O:10])OC 10=20;20,21=21
[H:20][Br:21].C=CC=[O:10]>>[H:20][O+:10]=CC=C.[Br-:21] 10=20;20,21=21
CC(=[O:10])O.C[Si:20](C)(C)OS(=O)(=O)C>>CC(=[O+:10][Si-:20](C)(C)(C)OS(=O)(=O)C)O 10=20,
CC[Si:20](CC)(CC)C1(SCCCS1)CC(CC(CCOC2=CC=C(C=C2)[N+](=O)[O-])O[Si](CC)(CC)CC)[O-:10].[Li+].CC(C)C>>CC[Si](CC)(CC)OC(CCOC1=CC=C(C=C1)[N+](=O)[O-])CC2CC3([Si-:20]([O:10]2)(CC)(CC)CC)SCCCS3.[Li+].CC(C)C 10=20,
CN[C:20]([O-:10])(OC)[Cl:21]>>CN[C:20](=[O:10])OC.[Cl-:21] 10=20;20,21=21
[Li][OH+]C(C)(C)C.CC1(C([C:10]2=[C:11](CCC=C2O1)[O-:12])[CH2:20][O:21]S(=O)(=O)C(F)(F)F)C>>[Li][OH+]C(C)(C)C.CC1(C2[C:10]3([C:11](=[O:12])CCC=C3O1)[CH2:20]2)C.C(F)(F)(F)S(=O)(=O)[O-:21] 10,11=10,20;12=11;20,21=21
CCC[Cl:10].[Al:20](Cl)(Cl)Cl>>CCC[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
CC(=O)OCC1C(C(C=CO1)OC(=[O:10])C)OC(=O)C.C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F>>CC(=O)OCC1C(C(C=CO1)OC(=[O+:10][Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F)C)OC(=O)C 10=20,
[H:20][O:21]P(=O)(O)[O-].C[N:10](C)C(C#CCCCOCC1=CC=C(C=C1)OC)O.[Li+].CN(C)P(=O)(N(C)C)N(C)C.OP(=O)([O-])[O-]>>OP(=O)([O-:21])[O-].[H:20][N+:10](C)(C)C(C#CCCCOCC1=CC=C(C=C1)OC)O.[Li+].CN(C)P(=O)(N(C)C)N(C)C.OP(=O)([O-])[O-] 10=20;20,21=21
CC=CC1CCCC(C1[NH:10]C)C.[CH3:20][I:21]>>CC=CC1CCCC(C1[NH+:10](C)[CH3:20])C.[I-:21] 10=20;20,21=21
CC[OH:10].CC(C)[CH:20]=[O+:21]C>>CC[OH+:10][CH:20](C(C)C)[O:21]C 10=20;20,21=21
C[N:10](C)[C:20]([OH2+:21])(O)O>>C[N+:10](=[C:20](O)O)C.[OH2:21] 10=20;20,21=21
C1CC[NH:10]C1.C1=CC=C(C=C1)[CH:20]=[CH:21][CH:22]=[O:23].O>>C1CC[NH+:10](C1)[CH:20]([CH:21]=[CH:22][O-:23])C2=CC=CC=C2.O 10=20;22,23=23;20,21=21,22
[H:20][NH+:21]1CCOCC1.C1CCC(CC1)(N2CCOCC2)[O-:10].C1=CC=CC=C1>>[H:20][O:10]C1(CCCCC1)N2CCOCC2.C1COCC[NH:21]1.C1=CC=CC=C1 10=20;20,21=21
[CH2+:20][OH:10]>>[CH2:20]=[OH+:10] 10=20,
[H:20][O:21]C(=O)C(CC)C(=O)C1=CC=CC=C1.CCOC(=O)N[N-:10]C(=O)OCC.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.CCC(C(=O)C1=CC=CC=C1)C(=O)[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4 10=20;20,21=21
CC[O-:10].C[Sn](C)(C)CC[CH2:20][Br:21]>>CC[O:10][CH2:20]CC[Sn](C)(C)C.[Br-:21] 10=20;20,21=21
CC1(OC2C[N+:21]34CCCC3[CH:20]4C2O1)C.[Cl-:10].[Li+].CS(=O)(=O)[O-]>>CC1(OC2C[N:21]3CCCC3[CH:20](C2O1)[Cl:10])C.[Li+].CS(=O)(=O)[O-] 10=20;20,21=21
CC12CC(=C)CC(C1([O-])[O+:11](C)[Na:10])CC2=O>>CC12CC(=C)CC(C1([O-])[O:11]C)CC2=O.[Na+:10] 10,11=11
